US04319913
The procedure of Example 1 was employed utilizing N-benzylaniline and cyclopentyl phosphonic dichloride. The crude product produced as a result of the chromatographic separation was slurried in methylcyclohexane and further purified on a chromatographic system employing an alumina column using chloroform (containing 0.75% ethyl alcohol) as the eluant. Fractions containing the benzazaphosphole were crystallized using benzene and methylcyclohexane to yield 1-cyclopentyl-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide as a yellow solid. A second crop was obtained to give a total yield of 0.85 g (5% yield) of 1-cyclopentyl-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide having a melting point of 123°-125° C. and the following analysis:

reactant | N-benzylaniline | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | cyclopentyl phosphonic dichloride | C1(CCCC1)P(=O)(Cl)Cl | C5H9Cl2OP
solvent | methylcyclohexane | CC1CCCCC1 | C7H14
product | 1-cyclopentyl-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | C1(CCCC1)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O | C18H20NOP
